US07754728B2
2-(2-Hydroxyethoxy)-9-{(6-methyl-3-pyridyl)methyl}adenine)
After sodium (2.1 g, 91 mmol) was dissolved in ethylene glycol (30 ml), 2-chloro-9-{(6-methyl3-pyridyl)methyl}adenine (3.0 g, 11 mmol) was added thereto and the mixture was stirred at 100° C. for 3 hours. After the mixture was allowed to cool, water (80 ml) was added thereto and the resulting precipitate was filtered to give the captioned compound (3.1 g, 10 mmol, yield: 94%) as a white solid.

reactant | sodium | 91 mmol, 2.1 g | [Na] | Na
reactant | 2-chloro-9-{(6-methyl3-pyridyl)methyl}adenine | 11 mmol, 3.0 g | ClC1=NC(=C2N=CN(C2=N1)CC=1C=NC(=CC1)C)N | C12H11ClN6
reactant | water | 80 ml | O | H2O
reactant | ethylene glycol | 30 ml | C(CO)O | C2H6O2
product | 2-(2-Hydroxyethoxy)-9-{(6-methyl-3-pyridyl)methyl}adenine | 10 mmol, 3.1 g, yield: 94% | OCCOC1=NC(=C2N=CN(C2=N1)CC=1C=NC(=CC1)C)N | C14H16N6O2
